US04808624
4-Amino-5-chloro-N-[2-(diethylamino)ethyl]-2-[(2-methoxyethoxy)methyloxy]benzamide
To a well stirred suspension of sodium hydride (0.34 g of 60%, 0.014 mole) in 5 ml dry DMF was added a solution of 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxy benzamide (3.57 g, 0.012 mole) in 15 ml dry DMF at room temperature over 18 minutes. The mixture was then stirred an additional hour giving essentially a clear solution. To this was added dropwise a solution of 2-methoxyethoxymethyl chloride (1.74 g, 0.014 mole) in 5 ml dry DMF. After an additional four hours at ambient temperature, the mixture was concentrated in vacuo, and the residue partitioned between water (200 ml) and methylene chloride (75 ml). The aqueous phase was extracted twice with 75 ml portions of methylene chloride. After combining, the organic phase was washed three times with 50 ml of 10% aqueous sodium hydroxide and three times with brine; dried over sodium sulfate, filtered, concentrated in vacuo, to give 4.26 grams of residue. Crystallization from ether gave 2.53 grams of the title compound, mp 79°-81° C. The NMR spectrum (90 MHz) in CDCl gave the following resonances: δ 8.18 (s, 2H); 6.61 (s, 1H); 5.40 (s, 2H); 4.40 (s, 2H); 3.84 (m, 2H); 3.50 (m, 4H); 3.44 (s, 3H); 2.56 (m, 6H); 1.04 (t, 6H).

reactant | sodium hydride | 0.014 mole, 0.34 g | [H-].[Na+]
reactant | 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxy benzamide | 0.012 mole, 3.57 g | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)O | C13H20ClN3O2
reactant | 2-methoxyethoxymethyl chloride | 0.014 mole, 1.74 g | COCCOCCl | C4H9ClO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-Amino-5-chloro-N-[2-(diethylamino)ethyl]-2-[(2-methoxyethoxy)methyloxy]benzamide | 4.26 grams | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)OCOCCOC | C17H28ClN3O4
